US06900210B2
(S)-3-(2-fluoro-phenyl)-N-{1-[3-(pyrimidin-2-yloxy)-phenyl]-ethyl}-acrylamide
The title compound was prepared from 2-fluorocinnamic acid following the general procedures as described for Example 1 with the exception that (S)-1-[3-(pyrimidin-2-yloxy)-phenyl]-ethylamine was used.

reactant | 2-fluorocinnamic acid | FC1=C(C=CC(=O)O)C=CC=C1 | C9H7FO2
reactant | (S)-1-[3-(pyrimidin-2-yloxy)-phenyl]-ethylamine | N1=C(N=CC=C1)OC=1C=C(C=CC1)[C@H](C)N | C12H13N3O
product | (S)-3-(2-fluoro-phenyl)-N-{1-[3-(pyrimidin-2-yloxy)-phenyl]-ethyl}-acrylamide | FC1=C(C=CC=C1)C=CC(=O)N[C@@H](C)C1=CC(=CC=C1)OC1=NC=CC=N1 | C21H18FN3O2
